US09428499B2
To a solution of 1-iodo-3-nitrobenzene (1.450 g, 5.82 mmol) and ethyl 2-bromo-2,2-difluoroacetate (1.3 g, 6.40 mmol) in anhydrous DMSO (10 ml) was added Copper powder (0.740 g, 11.64 mmol). The mixture was purged with N2 and heated at 70° C. in a sealed vial for 17 h. After being cooled to room temperature, the reaction mixture was poured into 20% aqueous NH4Cl solution (100 mL) and was extracted with EtOAc (2×100 mL). The organic extract was washed with brine (2×30 mL), dried over Na2SO4 and concentrated. The residue was purified by flash chromatography to obtain ethyl 2,2-difluoro-2-(3-nitrophenyl)acetate (0.714 g).

reactant | 1-iodo-3-nitrobenzene | 5.82 mmol, 1.450 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | ethyl 2-bromo-2,2-difluoroacetate | 6.40 mmol, 1.3 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
catalyst | Copper | 11.64 mmol, 0.740 g | [Cu] | Cu
product | ethyl 2,2-difluoro-2-(3-nitrophenyl)acetate | 0.714 g | FC(C(=O)OCC)(C1=CC(=CC=C1)[N+](=O)[O-])F | C10H9F2NO4
